US20010023249A1
Step 2: Preparation of Boc-L-leucinal
Boc-L-Leucine-N-methyl-N-methoxy amide (1.0 g, 3.64 mmol) was dissolved in Et2O (36 mL) and cooled in a brine-ice bath. LiAlH4 (0.138 g, 3.64 mmol) was added and the reaction was stirred cold. The reaction was quenched by dropwise addition of a solution of sodium thiosulfate (0.5 g) in H2O (16 mL). Water (100 mL) was added and the aqueous layer was extracted with Et2O (3×100 mL). The organic layer was washed with 1N HCl, saturated bicarbonate solution, and brine, dried over Na2SO4, and concentrated. The crude material was carried on immediately without further purification.

reactant | Boc-L-Leucine-N-methyl-N-methoxy amide | 3.64 mmol, 1.0 g | CN(C([C@@H](NC(=O)OC(C)(C)C)CC(C)C)=O)OC | C13H26N2O4
reactant | LiAlH4 | 3.64 mmol, 0.138 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | Et2O | 36 mL | CCOCC | C4H10O
product | Boc-L-leucinal | C(=O)(OC(C)(C)C)N[C@@H](CC(C)C)C=O | C11H21NO3
